US06765012B2
6-Fluoro-3-{[4-(2-piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one
In a manner similar to that described in Example 231, 4-(2-piperidin-1-yl-ethoxy)-phenylamine (737 mg, 1.2 equiv.) and 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one (500 mg, 2.79 mmol, 1 equiv.) are reacted to give the named compound as a yellow solid (745 mg, 70%).

reactant | 4-(2-piperidin-1-yl-ethoxy)-phenylamine | 737 mg, 1.2 equiv. | N1(CCCCC1)CCOC1=CC=C(C=C1)N | C13H20N2O
reactant | 6-fluoro-3-hydroxymethylene-1,3-dihydro-indol-2-one | 2.79 mmol, 500 mg, 1 equiv. | FC1=CC=C2C(C(NC2=C1)=O)=CO | C9H6FNO2
product | 6-Fluoro-3-{[4-(2-piperidin-1-yl-ethoxy)-phenylamino]-methylene}-1,3-dihydro-indol-2-one | 745 mg, 70% | FC1=CC=C2C(C(NC2=C1)=O)=CNC1=CC=C(C=C1)OCCN1CCCCC1 | C22H24FN3O2
